US06951879B2
In analogy to example 27.1, 3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophen-6-ol and 1,4-dibromobutane were converted to yield 6-(4-bromo-butoxy)-3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophene as colorless oil, MS: 452 (M, 2Br).

reactant | 3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophen-6-ol | BrC1=CC=C(C=C1)C=1C2=C(SC1C)C=C(C=C2)O | C15H11BrOS
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 6-(4-bromo-butoxy)-3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)Br)C)C1 | C19H18Br2OS
